US08247415B2
Step A: Methyl 4-methoxy-2-(1H-pyrazol-1-yl)butanoate
To a stirred, cooled (−78° C.) solution of 1.32 g (10.0 mmol) of methyl 4-methoxybutanoate in 15 mL of anhydrous THF under an atmosphere of nitrogen was added 10.5 mL (10.5 mmol) of a 1.0 M solution of LiHMDS in tetrahydrofuran. The resulting mixture was stirred for 1 h, then 1.09 g (10 mmol) of chlorotrimethylsilane was added. After stirring for 20 min, 1.78 g (10.0 mmol) of solid N-bromosuccinimide was added and the mixture was stirred for 2 h at −78° C., then slowly warmed to ambient temperature over 40 min. The reaction was quenched with a saturated aqueous ammonium chloride solution and then the aqueous phase was extracted with ethyl acetate (2×20 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and evaporated to dryness in vacuo. The crude residue was dissolved in 15 mL of DMF and 5.5 g (40 mmol) of potassium carbonate followed by 3.4 g (50 mmol) of 1H-pyrazole were added. The resulting mixture was heated to 80° C. for 40 min, then cooled to ambient temperature. The reaction was diluted with 75 mL of water and extracted with ethyl acetate (3×50 mL). The combined extracts were washed with brine, dried over magnesium sulfate, filtered and evaporated to dryness in vacuo. The crude residue was purified by reverse phase HPLC (TMC Pro-Pac C18; 0-75% 0.1% trifluoroacetic acid in acetonitrile/0.1% trifluoroacetic acid in water gradient) to yield the title compound (0.26 g, 13%). LC-MS: m/z (ES) 199 (MH)+.

reactant | methyl 4-methoxybutanoate | 10.0 mmol, 1.32 g | COCCCC(=O)OC | C6H12O3
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | chlorotrimethylsilane | 10 mmol, 1.09 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1H-pyrazole | 50 mmol, 3.4 g | N1N=CC=C1 | C3H4N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 75 mL | O | H2O
product | Methyl 4-methoxy-2-(1H-pyrazol-1-yl)butanoate | 0.26 g, 13% | COCCC(C(=O)OC)N1N=CC=C1 | C9H14N2O3
